US05935972
5-(3,5-Dimethyl-isoxazol-4-yl)-benzofuran-7-carbaldehyde (153 mg)
From tributyl-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)-stannane (1.43 g) and 4-bromo-3,5-dimethylisoxazole (0.51 g).

reactant | tributyl-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)-stannane | 1.43 g | C(CCC)[Sn](C=1C=C(C2=C(C=CO2)C1)C1OCCCO1)(CCCC)CCCC
reactant | 4-bromo-3,5-dimethylisoxazole | 0.51 g | BrC=1C(=NOC1C)C | C5H6BrNO
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-benzofuran-7-carbaldehyde | CC1=NOC(=C1C=1C=C(C2=C(C=CO2)C1)C=O)C | C14H11NO3
